US04482560
2.0 Grams of 5-[2-hydroxy-3-(4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril and 3 g of methyl iodide were mixed with 30 ml of dimethylformamide and the mixture was stirred at 50°-60° C. for 5 hours. The reaction mixture was concentrated under a reduced pressure and to the residue thus obtained was added 50 ml of acetone and stirred. The precipitates thus formed were collected by filtration and washed with acetone, then recrystallized from methanol-ethanol to obtain 1.7 g of 4-phenyl-1-[2-hydroxy-3-(2-oxo-1,2,3,4-tetrahydroquinolin-5-yloxy)propyl]-1-methylpiperidiniumiodide as in the form of colorless powdery substance. Melting point: 242°-243° C.

reactant | 5-[2-hydroxy-3-(4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril | OC(COC1=C2CCC(NC2=CC=C1)=O)CN1CCC(CC1)C1=CC=CC=C1 | C23H28N2O3
reactant | methyl iodide | 3 g | CI | CH3I
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-phenyl-1-[2-hydroxy-3-(2-oxo-1,2,3,4-tetrahydroquinolin-5-yloxy)propyl]-1-methylpiperidiniumiodide | 1.7 g | [I-].C1(=CC=CC=C1)C1CC[N+](CC1)(C)CC(COC1=C2CCC(NC2=CC=C1)=O)O | InChI=1S/C24H30N2O3.HI/c1-26(14-12-19(13-15-26)18-6-3-2-4-7-18)16-20(27)17-29-23-9-5-8-22-21(23)10-11-24(28)25-22;/h2-9,19-20,27H,10-17H2,1H3;1H
